US05484943
To a suspension of 0.5 g (0.00175 mol) of 1,4-diketo-3,6-diphenylpyrrolo[3,4-c]pyrrole in 17 ml of tetrahydrofuran are added, under argon, 0.28 g (0.007 mol) of solid sodium hydride. After stirring for 24 hours, 0.67 ml (0.007 mol) of n-butyl chloroformate are added and the suspension is stirred overnight. The mixture is filtered and the filtrate is concentrated under vacuum. The residue is taken up in water/diethyl ether, the organic phase is dried over MgSO4 and then concentrated under vacuum. The residue is taken up in n-hexane and the precipitated yellow powder is collected by filtration and washed with a minor amount of n-hexane, giving 0.62 g (73% of theory) of N,N'-bis(n-butoxycarbonyl)-1,4-diketo-3,6-diphenylpyrrolo[3,4-c]pyrrole as a yellow fluorescent powder.

reactant | 1,4-diketo-3,6-diphenylpyrrolo[3,4-c]pyrrole | 0.00175 mol, 0.5 g | O=C1N=C(C2=C1C(=NC2=O)C2=CC=CC=C2)C2=CC=CC=C2 | C18H10N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | n-butyl chloroformate | 0.007 mol, 0.67 ml | ClC(=O)OCCCC | C5H9ClO2
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | N,N'-bis(n-butoxycarbonyl)-1,4-diketo-3,6-diphenylpyrrolo[3,4-c]pyrrole | 0.62 g, 73% | C(CCC)OC(=O)N1C(C2=C(N(C(C2=C1C1=CC=CC=C1)=O)C(=O)OCCCC)C1=CC=CC=C1)=O | C28H28N2O6
